US08389555B2
STEP F: Preparation of N-(4-oxobutyl)-4-phenylpiperidine-1-carboxamide
1.39 g (4 mmol) N-(4,4-diethoxybutyl)-4-phenylpiperidine-1-carboxamide, 5 mL acetic acid, 2.5 mL 1N aqueous hydrochloric acid and 20 mL ethanol are put together and stirred for 16 hours under argon atmosphere. Ethanol is evaporated. Then the resulting residue is dispersed in dichloromethane and extracted with saturated sodium bicarbonate solution. The organic phase is dried with sodium sulfate and the solvent evaporated in vacuum. The crude product is obtained in almost quantitative yield.

reactant | N-(4,4-diethoxybutyl)-4-phenylpiperidine-1-carboxamide | 4 mmol, 1.39 g | C(C)OC(CCCNC(=O)N1CCC(CC1)C1=CC=CC=C1)OCC | C20H32N2O3
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 1N, 2.5 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-(4-oxobutyl)-4-phenylpiperidine-1-carboxamide | quantitative yield | O=CCCCNC(=O)N1CCC(CC1)C1=CC=CC=C1 | C16H22N2O2
